US06080754
4-Methoxy-2-n-propylpyridine was reacted with 4-methoxyphenacylbromide by the general synthetic principle outlined in example 23, step 5, to afford 1-ethyl-7-methoxy-2-(4-methoxyphenyl)indolizine in 86% yield. M.p. 101-103° C. 1H-NMR (DMSO-d6, 200 MHz) δ: 1.10 (t, 3H); 2.77 (q, 2H); 3.77 (s, 3H); 3.80 (s, 3H); 6.23 (dd, 1H); 6.65 (d, 1H); 7.00 (d, 2H); 7.35 (s, 1H); 7.38 (d, 2H); 8.06 (d, 1H). Analysis: Calculated for C18H19N1O2 : C, 76.84; H, 6.81; N, 4.98%. Found: C, 76.73; H, 6.94; N, 4.80%.

reactant | 4-Methoxy-2-n-propylpyridine | COC1=CC(=NC=C1)CCC | C9H13NO
reactant | 4-methoxyphenacylbromide | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
product | 1-ethyl-7-methoxy-2-(4-methoxyphenyl)indolizine | 86% yield | C(C)C=1C(=CN2C=CC(=CC12)OC)C1=CC=C(C=C1)OC | C18H19NO2
